US09334286B2
Preparation 114: (3-(Difluoromethoxy)-4-nitrophenyl)(3-methoxyazetidin-1-yl)methanone
(3-Hydroxy-4-nitrophenyl)(3-methoxyazetidin-1-yl)methanone (Preparation 115, 300 mg, 1.19 mmol) and methyl 2-chloro-2,2-difluoroacetate (258 mg, 1.78 mmol) were dissolved in dry DMF (2 mL). Potassium carbonate (328 mg, 2.38 mmol) was added and the reaction was heated to 120° C. under microwave irradiation for 1 hour. The reaction was cooled to room temperature and diluted with ethyl acetate (20 mL). The organic solution was washed with water (20 mL), brine (20 mL), dried over sodium sulphate and concentrated in vacuo. The residue was purified by silica gel column chromatography eluting with a gradient of 20% hexanes in ethyl acetate to 100% ethyl acetate to afford the title compound as a yellow oil (250 mg, 67.3%).

reactant | (3-Hydroxy-4-nitrophenyl)(3-methoxyazetidin-1-yl)methanone | 1.19 mmol, 300 mg | OC=1C=C(C=CC1[N+](=O)[O-])C(=O)N1CC(C1)OC | C11H12N2O5
reactant | methyl 2-chloro-2,2-difluoroacetate | 1.78 mmol, 258 mg | ClC(C(=O)OC)(F)F | C3H3ClF2O2
reactant | Potassium carbonate | 2.38 mmol, 328 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | (3-(Difluoromethoxy)-4-nitrophenyl)(3-methoxyazetidin-1-yl)methanone | 250 mg, 67.3% | FC(OC=1C=C(C=CC1[N+](=O)[O-])C(=O)N1CC(C1)OC)F | C12H12F2N2O5
